US06538091B1
Copolymers of Isobutyl Vinyl Ether/Methyl Acrylate (3:1)
To 0.11 g (6.68×10−4 mole) 2,2′-bipyridyl and 0.036 g (2.34×10−4 mole) CuBr in a glass tube, were added 1.8 ml (1.65×10−2 mole) IBVE, 0.5 ml (0.55×10−2 mole) methyl acrylate and 0.034 ml (2.34×10−4 mole) 1-phenylethyl bromide under argon atmosphere. The glass tube was sealed under vacuum, and the reaction mixture was warmed at 50° C. for 12 hours. The reaction mixture was then dissolved in THF, and the conversion of MA and IBVE as determined by GC were 100%. The polymer was then precipitated in methanol (three times), filtered, dried at 60° C. under vacuum for 48 h and weighed. The content of IBVE in the copolymer was 75%, and Mn=8710, Mw/Mn=2.00 (Mth=9090). The glass transition temperatures of the product as determined by DSC were −44.3° C. and 7.1° C.

reactant | 2,2′-bipyridyl | 6.68×10−4 mole, 0.11 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | methyl acrylate | 0.55×10−2 mole, 0.5 ml | C(C=C)(=O)OC | C4H6O2
reactant | 1-phenylethyl bromide | 2.34×10−4 mole, 0.034 ml | C1(=CC=CC=C1)C(C)Br | C8H9Br
solvent | THF | C1CCOC1 | C4H8O
product | Isobutyl Vinyl Ether Methyl Acrylate | C(=C)OCC(C)C.C(C=C)(=O)OC | InChI=1S/C6H12O.C4H6O2/c1-4-7-5-6(2)3;1-3-4(5)6-2/h4,6H,1,5H2,2-3H3;3H,1H2,2H3
